US07105567B2
A solution of N-[(4-benzyloxyphenyl)methyl]-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea (5.23 g), 10% Pd—C (0.6 g) and ammonium formate (3.1 g) in methanol was stirred at room temperature for 5 hr. Pd—C was filtered off from the reaction system and the filtrate was concentrated and the residue was purified by silica gel column chromatography to give N′-(2,6-diisopropylphenyl)-N-[(4-hydroxyphenyl)methyl]-N-(4-isopropylphenyl)urea (0.78 g).

reactant | N-[(4-benzyloxyphenyl)methyl]-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea | 5.23 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CN(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)C(C)C | C36H42N2O2
reactant | ammonium formate | 3.1 g | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | Pd—C | 0.6 g | [Pd] | Pd
product | N′-(2,6-diisopropylphenyl)-N-[(4-hydroxyphenyl)methyl]-N-(4-isopropylphenyl)urea | 0.78 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)O)=O | C29H36N2O2
